US04810713
2-(3-Chloropropoxy)benzonitrile
A mixture of 2-cyanophenol (50.0 g, 0.42 mole), 1-bromo-3-chloropropane (67.7 g, 0.43 mole), and potassium carbonate (58.0 g, 0.42 mole) was heated overnight at gentle reflux in 500 ml of acetone. The reaction mixture was stripped to dryness and the residue was dissolved in chloroform. The chloroform layer was extracted several times with 5% sodium hydroxide. The chloroform layer was dried (anhydrous sodium sulfate), filtered, and the solvent was removed, to give a brown oil (80.09 g). A ten gram portion of this oil was subjected to flash chromatography on silica gel with 10% ethyl acetate-hexanes and 20% ethyl acetate-hexanes used for elution. Fractions were combined and solvent removed in vacuo. The clear oil obtained was dried 18 hrs in vacuo at room temperature and 8 hrs at 80° C. in vacuo. This furnished 5.24 g (50.0% yield--based on aliquot taken) of clear oil.

reactant | 2-cyanophenol | 0.42 mole, 50.0 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | 1-bromo-3-chloropropane | 0.43 mole, 67.7 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.42 mole, 58.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-Chloropropoxy)benzonitrile | 80.09 g, 50.0% yield | ClCCCOC1=C(C#N)C=CC=C1 | C10H10ClNO
